US07157487B2
In THF (400 ml) were dissolved 2,4-difluoronitrobenzene (17.4 g, 109 mmol) and di-tert-butyl malonate (27.0 ml, 120 mmol). Under stirring at 0° C., sodium hydride (60% in oil, 4.82 g, 120 mmol) was added in portions. The reaction mixture was then stirred overnight at room temperature. The reaction mixture was poured in 1.0N-HCl (300 ml), followed by extraction with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from hexane-ethyl acetate (20:1 to 10:1) eluate fractions, di-tert-butyl (3-fluoro-4-nitrophenyl)malonate (5.17 g, 13%) was obtained as a pale yellow oil.

reactant | 2,4-difluoronitrobenzene | 109 mmol, 17.4 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | di-tert-butyl malonate | 120 mmol, 27.0 ml | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | sodium hydride | 120 mmol, 4.82 g | [H-].[Na+]
reactant | HCl | 300 ml | Cl | ClH
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | di-tert-butyl (3-fluoro-4-nitrophenyl)malonate | 5.17 g, 13% | FC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H22FNO6
